US08022062B2
Using a method similar to the General Procedure 5-4, combine 6-amino-7-chloro-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (0.1 g, 0.35 mmol), 8-bromomethyl-quinoline (83.6 mg, 0.038 mmol), cesium carbonate (0.2 g, 0.68 mmol) and anhydrous acetonitrile (1 mL) in a sealed tube and heat at 50° C. for 12 h to obtain 7-chloro-6-[(quinolin-8-yl-methyl)-amino)-amino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine as a colorless oil.

reactant | 6-amino-7-chloro-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.35 mmol, 0.1 g | NC1=C(C=CC=2CCN(CCC21)C(C(F)(F)F)=O)Cl | C12H12ClF3N2O
reactant | 8-bromomethyl-quinoline | 0.038 mmol, 83.6 mg | BrCC=1C=CC=C2C=CC=NC12 | C10H8BrN
reactant | cesium carbonate | 0.68 mmol, 0.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | 3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | FC(C(=O)N1CCC2=C(CC1)C=CC=C2)(F)F | C12H12F3NO
